US09278951B2
Synthesis of 3-methyl-1-(2-methylanthraquinonyl)-4,5-dichloroimidazolium iodide
4,5-Dichloroimidazole (0.18 g, 1.33 mmol) and potassium hydroxide (0.08 g, 1.46 mmol) were combined in a round bottom flask. Acetonitrile (2 mL) was added and the mixture was stirred at reflux for 30 min, dissolving the remaining solid. Concurrently, 2-(Bromomethyl)anthraquinone (0.40 g, 1.33 mmol) was added to 30 mL acetonitrile and stirred at reflux for 30 min, partially dissolving the solid. The solution in the initial flask was added to the 2-(bromomethyl)anthraquinone mixture, and the solution was returned to reflux for 3 h. The mixture was filtered hot, and a precipitate quickly formed in the tan filtrate. The precipitate was collected by a second filtration and washed with cold acetonitrile to yield a yellow powder. This solid (0.50 g, 1.0 mmol) will be dissolved in DMF and heated at 80° C. Iodomethane (0.62 mL, 10.0 mmol) will be added slowly and the reaction mixture will be heated for 12 h. Removal of the volatile components under reduced pressure will yield the product.

reactant | 4,5-Dichloroimidazole | 1.33 mmol, 0.18 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | potassium hydroxide | 1.46 mmol, 0.08 g | [OH-].[K+]
reactant | 2-(Bromomethyl)anthraquinone | 1.33 mmol, 0.40 g | BrCC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C15H9BrO2
reactant | Iodomethane | 10.0 mmol, 0.62 mL | IC | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | Acetonitrile | 2 mL | C(C)#N | C2H3N
product | 3-methyl-1-(2-methylanthraquinonyl)-4,5-dichloroimidazolium iodide | [I-].CN1C=[N+](C(=C1Cl)Cl)C1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C | InChI=1S/C19H13Cl2N2O2.HI/c1-10-7-8-13-14(15(10)23-9-22(2)18(20)19(23)21)17(25)12-6-4-3-5-11(12)16(13)24;/h3-9H,1-2H3;1H/q+1;/p-1
